Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
episodes of stiffening

 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ old man with a history of a chronic 
left
parietal infarct as well as subacute right parietal infarct,
presumed afib on Coumadin, mild dementia and prostate cancer 
with
a chronic indwelling Foley who presents with two episodes of
stiffening and trembling. 

History is obtained from patient's home health aide who 
witnessed
the event. After dinner, patient had just had a bowel movement
and required assistance to help him off the toilet. He began to
say, "I feel weak." The aide asked him to grab his walker and
asked if he could make it to the chair, but he said he was too
weak to walk. He then "went totally stiff as a board and leaned
to the left side." The aide began holding him by his shorts so 
he
wouldn't fall. His wife grabbed a chair, and the aide placed him
in the chair. He remained stiff, with his eyes open and staring
out for about ___ seconds. Shortly thereafter, he began
grabbing the aide's clothes, almost like he was trying to rip 
her
clothes off and then he started trembling for ___ seconds. 

He remained in the chair and shortly afterwards, he grabbed her 
clothes again and began trembling. After this, he repeated that
he felt weak. The aide noticed he was sweaty and called ___. 

He was taken to ___ where there was no episodes. 
Given
concern for possible seizure, he was sent to ___ for 
neurologic
evaluation.  
 
Past Medical History:
Dementia
Dyphagia
Asthma
Polyneuropathy
Inferior division L MCA infarct ___ years ago)
Subacute R parietal infarct
? afib, on coumdin x ___ year 
Prostate CA
Hypertension
Hyperlipidemia
Arthritis
History of alcoholism
Gout
Status post left cataract surgery

 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented to self only.  When 
asked
location he says in ___ when asked what type of building 
he
is and he says "a temporary building"; he chooses hospital with
when given choices and when asked which hospital says "___. 
___
".  States it is ___.  Inattentive.  When asked to name
days the week backwards, he says ___.  When asked to perform serial
subtraction of threes from 20, he says "17, 14, 11, 10, 9, 8, 7,
6, 5, 4, 3, 2, 1".  Speech is fluent, however appears to have
intermittent word finding difficulty when asked open-ended
questions.  Naming intact to low frequency words, including
stroke card, with the exception of saying that the feather 
"looks
like a cigar" though he stated that he did not have his glasses
and was having trouble seeing the card.  Follows complex
cross-body appendicular commands, follows 2 step reverse-order
commands.  Repeats 5 word phrases, but not grammatically complex
phrases.

-Cranial Nerves: PERRL 3->2.5. VFF to confrontation. EOMI 
without
nystagmus. Facial sensation intact to light touch.  Left lower
facial droop. Hearing intact to loud conversation. Palate
elevates symmetrically. ___ strength in trapezii bilaterally.
Tongue protrudes in midline and moves briskly to each side.

- Motor:  Normal bulk.  Significant paratonia throughout.  No
drift.  Bilateral action tremor. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc        
L  5    ___   ___  5   5    5  5                
R  5    ___   ___  5   5    5  5                

-DTRs:
  Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
L  3  3    3    4*  *      +             +   
R  3  3    3    4*  *      +             + 
Plantar response was flexor bilaterally.
*3 beats of clonus bilateral knees.  Please reflexes are
difficult to elicit because patient has significant paratonia 
and
will not allow passive movement of the ankle.  

-Sensory:  Intact to LT, temperature throughout.  Unable to
assess proprioception at the toes due to marked bunions and
overlapping toes.  When her perception testing is attempted at
the ankles, patient has significant paratonia and will not allow
the examiner to passively move the ankle.

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: When patient stands at edge of bed he is unsteady, when
he takes one step forward he immediately falls backwards onto 
the
bed.

==========================================

DISCHARGE PHYSICAL EXAM:
Vitals: T: 98.5  P: 74 R: 16  BP: 95/64 SaO2: 96% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, dry MM
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person, not place or date.
Able to relate history without difficulty. Inattentive to ___
backwards. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name high frequency but not low frequency 
objects.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  Right pupil 3 to 2mm and brisk. The left pupil
is 3 to 2.5mm and sluggish. EOMI without nystagmus. Normal
saccades. Bilateral blink to threat. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, paratonia throughout. No pronator drift
bilaterally. 
 Delt Bic Tri WrE FFl IP Quad Ham TA Gastroc        
L  4+   ___  ___   ___              
R  5-   ___   ___   ___ 

-Sensory: No deficits to light touch. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   1
R  2  2    2    3   1
Plantar response was withdrawal bilaterally.

-Coordination: No dysmetria on FNF bilaterally.

-Gait: Good initiation. Wide-based, walks with a walker,
retropulses with standing. 

 
Pertinent Results:
ADMISSION LABS:
___ 01:00AM BLOOD WBC-8.1 RBC-3.87* Hgb-10.2* Hct-32.8* 
MCV-85 MCH-26.4 MCHC-31.1* RDW-15.9* RDWSD-49.2* Plt ___
___ 01:00AM BLOOD Neuts-76.4* Lymphs-14.5* Monos-7.7 
Eos-0.7* Baso-0.5 Im ___ AbsNeut-6.18* AbsLymp-1.17* 
AbsMono-0.62 AbsEos-0.06 AbsBaso-0.04
___ 01:00AM BLOOD ___ PTT-28.3 ___
___ 01:00AM BLOOD Glucose-105* UreaN-45* Creat-1.3* Na-139 
K-4.8 Cl-103 HCO3-23 AnGap-13
___ 05:05AM BLOOD ALT-9 AST-17 AlkPhos-85 TotBili-0.3
___ 01:00AM BLOOD cTropnT-<0.01
___ 05:05AM BLOOD Albumin-3.7 Calcium-9.0 Phos-3.7 Mg-1.6 
Cholest-178
___ 05:05AM BLOOD %HbA1c-5.6 eAG-114
___ 05:05AM BLOOD Triglyc-97 HDL-50 CHOL/HD-3.6 LDLcalc-109
___ 01:00AM BLOOD TSH-7.6*
___ 01:00AM BLOOD Free T4-0.9*
___ 01:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE LABS:
___ 05:05AM BLOOD WBC-7.1 RBC-4.03* Hgb-10.6* Hct-33.8* 
MCV-84 MCH-26.3 MCHC-31.4* RDW-15.8* RDWSD-48.9* Plt ___
___ 05:05AM BLOOD Glucose-81 UreaN-33* Creat-1.2 Na-144 
K-4.5 Cl-105 HCO3-23 AnGap-16
 
Brief Hospital Course:
Mr. ___ is a ___ old man with a history of a chronic 
left parietal infarct as well as subacute right parietal 
infarct, presumed afib on Coumadin and prostate cancer with a 
chronic indwelling Foley who presents with two episodes of 
stiffening and trembling. His history is notable for episodes of 
stiffening with decreased responsiveness and diffuse trembling 
without tongue biting or incontinence following a bowel 
movement. His exam is currently back to baseline per his family. 
Etiology of his symptoms is most consistent with pre-syncope 
versus convulsive syncope given the history. While he is 
certainly at risk for seizures, he was monitored on cEEG for 12
hours which did not show evidence of discharges or seizures. 
There was generalized slowing and focal slowing over the left 
parietal region, which is consistent with known stroke and 
dementia. He does not warrant AEDs at this time. 

Of note, patient's INR was 1.6 on admission. It is not clear to 
me why he is on both aspirin and warfarin, but given his history 
of falls, would be concerned about potential for intracranial 
bleed. If he has atrial fibrillation, he should continue on 
Coumadin. If not, should only be aspirin. 

He should follow-up with his outpatient neurologist, Dr. ___ 
___ further management. 

Transitional issues:
[] re-check thyroid function test, patient appears hypothyroid 
on exam
[] consider fall risk with aspirin and Coumadin
[] plan for chronic indwelling Foley catheter

PCP: Dr. ___: ___ (phone), ___ (fax)
NP: ___ ___ (phone)
Neurologist: Dr. ___ ___ (phone)
Home health aid company: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO DAILY 
3. Sertraline 100 mg PO DAILY 
4. Simvastatin 40 mg PO QPM 
5. Calcium Carbonate 500 mg PO BID 
6. Vitamin D 400 UNIT PO DAILY 
7. Warfarin 7.5 mg PO 4X/WEEK (___) 
8. Warfarin 5 mg PO 3X/WEEK (___) 
9. Tamsulosin 0.4 mg PO QHS 
10. Omeprazole 20 mg PO DAILY 
11. Bethanechol 25 mg PO DAILY 
12. Finasteride 5 mg PO DAILY 
13. Lisinopril 20 mg PO DAILY 
14. Hydrochlorothiazide 25 mg PO DAILY 
15. Acetaminophen 500 mg PO Q4H:PRN Pain - Mild 
16. FoLIC Acid 1 mg PO DAILY 
17. Senna 8.6 mg PO BID:PRN constipation 
18. Thiamine 500 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q4H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY  
3.  Bethanechol 25 mg PO DAILY  
4.  Calcium Carbonate 500 mg PO BID  
5.  Docusate Sodium 100 mg PO DAILY  
6.  Finasteride 5 mg PO DAILY  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Hydrochlorothiazide 25 mg PO DAILY  
9.  Lisinopril 20 mg PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  Senna 8.6 mg PO BID:PRN constipation  
12.  Sertraline 100 mg PO DAILY  
13.  Simvastatin 40 mg PO QPM  
14.  Tamsulosin 0.4 mg PO QHS  
15.  Thiamine 500 mg PO DAILY  
16.  Vitamin D 400 UNIT PO DAILY  
17.  Warfarin 7.5 mg PO 4X/WEEK (___)  
18.  Warfarin 5 mg PO 3X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Syncope

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for an 
episode of stiffening and unresponsiveness. EEG (brain wave) 
monitoring did not show signs of a seizure, and you did not have 
further episodes during your stay. Your symptoms were most 
likely due to fainting spells.

Please follow up with your primary care provider and neurologist 
at the appointments listed below.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___